US04025502
Preparation of 2-Isopropylazo-2-hydroxybutane
Into a 250 ml 4-neck round bottom flask equipped with a reflux condenser, thermometer, graduated addition funnel and a magnetic stirrer was added 18.1 grams (0.14 moles) of methyl ethyl ketone isopropyl-hydrazone. With efficient stirring 170 mls of 12.4% by wt. aqueous sodium hypochlorite was added dropwise while holding the reaction temperature at 25°-30° C. with a water bath. The oxidation was monitored by gas chromatography and after 3 hours stirring the hydrazone was completely oxidized. The reaction mixture was transferred to a separatory funnel and the spent aqueous hypochlorite solution separated. The organic layer was washed with 40 ml of cold 15% sodium bisulfite solution and then 25 ml of sodium bicarbonate solution. The organic layer was taken up in 50 ml of pentane, dried over anhydrous sodium sulfate, filtered and the pentane evaporated on a rotating evaporator under reduced pressure at 10°-20° C. The residue was an orange-yellow liquid weighing 9.4 grams (46.5% crude yield). The infrared spectrum of the product was similar to the infrared spectrum of 2-isopropylazo-2-hydroxybutane prepared by the α-chloro route (Example 5-a- 2).

reactant | methyl ethyl ketone isopropyl-hydrazone | 0.14 moles, 18.1 grams | C(C)(C)NN=C(C)CC | C7H16N2
reactant | sodium hypochlorite | Cl[O-].[Na+]
product | 2-Isopropylazo-2-hydroxybutane | C(C)(C)N=NC(C)(CC)O | C7H16N2O
